US07635715B2
Step F: Preparation of N-((6′-Chloro-4′-hydroxy-2′-oxo-spiro[cyclobutane-1,1′-naphthalen]-3′-yl)carbonyl)glycine
1,1-Dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclobutane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate (151 mg, 385 μmol) was stirred in TFA (1 mL, 13462 μmol) for 20 minutes. Water was added. The resulting precipitate was filtered and washed with water to give the desired product as a white solid (87 mg). MS (m/e)=336.1 (M+H)+. Calculated for C16H15ClO4 335.06.

reactant | 1,1-Dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclobutane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate | 385 μmol, 151 mg | ClC=1C=C2C(=C(C(C3(C2=CC1)CCC3)=O)C(=O)NCC(=O)OC(C)(C)C)O | C20H22ClNO5
reactant | TFA | 13462 μmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Water | O | H2O
product | N-((6′-Chloro-4′-hydroxy-2′-oxo-spiro[cyclobutane-1,1′-naphthalen]-3′-yl)carbonyl)glycine | 87 mg | ClC=1C=C2C(=C(C(C3(C2=CC1)CCC3)=O)C(=O)NCC(=O)O)O | C16H14ClNO5
